US20010023249A1
(S)-[1-(2-Amino-4-methyl-pentyl)-piperidin-4-yl]-(4-benzyloxy-phenyl)-(3-methyl-but-2-enyl)-amine
Boc-L-leucine hydrate (10.0 g, 40.0 mmol) was dissolved in DMF (200 mL), treated with Hunig's base (21 mL, 120 mmol), O,N-dimethylhydroxylamine hydrochloride salt (3.9 g, 40 mmol), and HBTU (15.16 g, 40 mmol), and stirred for 1 hour. The reaction was diluted with EtOAc (1 L), washed with saturated bicarbonate solution and brine, dried over Na2SO4, and concentrated to give 12.2 g of the desired product as a pale oil.

reactant | Boc-L-leucine hydrate | 40.0 mmol, 10.0 g | O.C(=O)(OC(C)(C)C)N[C@@H](CC(C)C)C(=O)O
reactant | Hunig's base | 120 mmol, 21 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | O,N-dimethylhydroxylamine hydrochloride salt | 40 mmol, 3.9 g | Cl.CONC
reactant | HBTU | 40 mmol, 15.16 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DMF | 200 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 1 L | CCOC(=O)C | C4H8O2
product | (S)-[1-(2-Amino-4-methyl-pentyl)-piperidin-4-yl]-(4-benzyloxy-phenyl)-(3-methyl-but-2-enyl)-amine | 12.2 g | N[C@H](CN1CCC(CC1)N(CC=C(C)C)C1=CC=C(C=C1)OCC1=CC=CC=C1)CC(C)C | C29H43N3O
